US08541596B2
N,N-Bis(3,5-difluorobenzyl)-1H-benzo[d]imidazol-5-amine
The compound was synthesized starting from benzimidazol-5-amine (133 mg; 1 mmol; 1 eq.), 3,5-difluorobenzylbromide (455 mg; 0.285 ml; 2.2 mmol; 2.2 eq.) and K2CO3 (304 mg; 2.2 mmol; 2.2 eq.) according to method 5; Yield: 0.065 g (16.7%); MS m/z: 386.3 [M+H]+; 1H-NMR (500 MHz, DMSO d6): δ 4.75 (s, 4H); 6.67-6.70 (m, 2H); 6.97-6.99 (m, 4H); 7.07 (tt, 2H, 4J=2.3 Hz, 3JH,F=9.3 Hz); 7.36-7.37 (m, 1H); 7.94 (s, 1H); 11.96 (br s, 1H); HPLC (METHOD [A]): rt 16.26 min (100%)

reactant | benzimidazol-5-amine | 1 mmol, 133 mg, 1 eq. | N1=CNC2=C1C=CC(=C2)N | C7H7N3
reactant | 3,5-difluorobenzylbromide | 2.2 mmol, 0.285 ml, 455 mg, 2.2 eq. | FC=1C=C(CBr)C=C(C1)F | C7H5BrF2
reactant | K2CO3 | 2.2 mmol, 304 mg, 2.2 eq. | C(=O)([O-])[O-].[K+].[K+]
product | N,N-Bis(3,5-difluorobenzyl)-1H-benzo[d]imidazol-5-amine | FC=1C=C(CN(C2=CC3=C(NC=N3)C=C2)CC2=CC(=CC(=C2)F)F)C=C(C1)F | C21H15F4N3
